US07750003B2
(4-{4-[1-Methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)amine
Tert-butyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate (2.6 g, 5.46 mmol) was dissolved in DCM (20 mL) and trifluoroacetic acid (10 mL) was added. The reaction mixture was stirred at room temperature for 2 hours then diluted with DCM (20 mL) and washed with saturated aqueous sodium bicarbonate (20 mL). Organic phase collected, dried over magnesium sulphate, filtered and concentrated in vacuo to give the desired material as a cream solid (2.1 g).

reactant | Tert-butyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate | 5.46 mmol, 2.6 g | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C23H32N4O5S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-{4-[1-Methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)amine | 2.1 g | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)N | C18H24N4O3S
